US04328349
To a stirred cold (0°) suspension of concentrated hydrochloric acid (516 ml.) and paraformaldehyde (105 g.) was added ethyl 2-hydroxyiminoacetoacetate prepared from 130 g. (1 m.) of ethyl acetoacetate over two hours maintaining the reaction temperature at 5°-15°. After stirring one hour at 5°-15°, aqueous ammonia (28%) was added slowly until pH reached 5 and temperature rose to 70° over 35 minutes. The reaction mixture was held at pH 5 at 65°-70° for 30 minutes and then aqueous ammonia (28%) was added until the mixture was neutral. The mixture was cooled to 10° and the solid material was filtered off and washed with water and isopropanol and dried to give ethyl 5-methyl-4-imidazolecarboxylate, m.p. 204°-206°, yield 61-65%.

reactant | hydrochloric acid | 516 ml | Cl | ClH
reactant | paraformaldehyde | 105 g | C=O | CH2O
reactant | ethyl 2-hydroxyiminoacetoacetate | ON=C(C(=O)OCC)C(=O)C | C6H9NO4
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ammonia | N | H3N
product | ethyl 5-methyl-4-imidazolecarboxylate | yield 61-65% | CC1=C(N=CN1)C(=O)OCC | C7H10N2O2
